* source ASS3IN
R_R1         N14434 N14443  1k TC=0,0 
V_V1         N14434 0 10Vdc
V_V2         N15615 0  AC 1
+SIN 0 10 1k 0 0 0
R_R2         0 N15625  1k TC=0,0 
D_D3         N15615 N15625 LB_543C-typ 
D_D4         N14443 0 D1N4148 
R_R3         N16939 N16827  1k TC=0,0 
D_D9         0 N16827 D1N4007 
D_D10         N16939 0 D1N4007 
D_D11         N16813 N16939 D1N4007 
D_D12         N16827 N16813 D1N4007 
V_V3         N16813 0  AC 1
+SIN 0 10 1k 0 0 0
