* source ASSIGN7
M_M1         N04321 N04328 N04225 N04225 MbreakP           
M_M2         N04225 N04328 0 0 MbreakN           
V_V1         N04321 0 12
V_V2         N04328 0  AC 0
+SIN 0 0.5 100Hz 0 0 0
R_R4         0 N04225  10k TC=0,0 
